US06455521B1
To a solution of N-(2-hydroxyphenyl)-2-bromo-3-thiophenecarboxamide (16 g) in dimethyl sulfoxide (160 ml) was added potassium carbonate (15 g) and the mixture was stirred at 150-160° C. for 25 minutes. The reaction system was cooled to room temperature and the reaction mixture was poured into water-ethyl acetate. The precipitated crystals were collected by filtration and washed with water and diisopropyl ether to give thieno[2,3-b][1,5]benzoxazepin-4(5H)-one (5.3 g).

reactant | N-(2-hydroxyphenyl)-2-bromo-3-thiophenecarboxamide | 16 g | OC1=C(C=CC=C1)NC(=O)C1=C(SC=C1)Br | C11H8BrNO2S
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | dimethyl sulfoxide | 160 ml | CS(=O)C | C2H6OS
product | thieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 5.3 g | S1C=CC2=C1OC1=C(NC2=O)C=CC=C1 | C11H7NO2S
